US08008302B2
Intermediate 26: (3R)-3-methyl-1-[4-(methylsulfonyl)phenyl]piperazine
A mixture of 4-fluorophenyl methyl sulfone (2.00 g), (R)-2-methylpiperazine (2.30 g) and K2CO3 (3.20 g) in anhydrous DMF (80 mL) was heated at 100° C. for 5 hours. The reaction mixture was filtered to remove salts and the solvent was evaporated under reduced pressure to give a yellow oil. Purification by flash chromatography (CHCl3/MeOH) gave 1.36 g (47%) of the title compound as a pale yellow solid. M+(ESI): 255.2. HPLC (Condition A), Rt: 1.0 min (HPLC purity: 100%).

reactant | 4-fluorophenyl methyl sulfone | 2.00 g | CS(=O)(=O)C1=CC=C(C=C1)F | C7H7FO2S
reactant | (R)-2-methylpiperazine | 2.30 g | C[C@H]1NCCNC1 | C5H12N2
reactant | K2CO3 | 3.20 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | (3R)-3-methyl-1-[4-(methylsulfonyl)phenyl]piperazine | 1.36 g, 47% | C[C@@H]1CN(CCN1)C1=CC=C(C=C1)S(=O)(=O)C | C12H18N2O2S
